US08389527B2
25D. Preparation of 8-(cyclopropylamino)-N-(2-fluoropyridin-4-yl)-6-((trans)-4-(phenylsulfonamido)cyclohexylamino)imidazo[1,2-b]pyridazine-3-carboxamide
To a solution of 6-((trans)-4-aminocyclohexylamino)-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (20.00 mg, 0.037 mmol) in CH2Cl2 (1 mL) was added DIEA (0.00617 mL, 0.035 mmol) and benzenesulfonyl chloride (1.5 mg, 8.49 μmol). The reaction solution was stirred at room temperature for 30 min, concentrated and then treated with TFA (1.132 mL, 14.69 mmol) at 70° C. for 1 hr. The reaction mixture was concentrated and purified by HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) 30% B (Solvent B=90% MeOH-10% H2O-0.1% TFA) to 100% B in A (Solvent A=10% MeOH-90% H2O-0.1% TFA)) to isolate the title compound, 8-(cyclopropylamino)-N-(2-fluoropyridin-4-yl)-6-((trans)-4-(phenylsulfonamido)cyclohexylamino)imidazo[1,2-b]pyridazine-3-carboxamide (2.6 mg, 12.54% yield) as a white solid (13.0 mg, 44.4%). LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA). Rt=1.910 minutes. [M+H]=565.25. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.36-11.55 (1H, m), 8.13-8.33 (1H, m), 7.89-8.01 (1H, m), 7.76-7.91 (3H, m), 7.47-7.70 (5H, m), 7.20-7.38 (1H, m), 6.78-6.96 (1H, m), 5.83-6.02 (1H, m), 3.48-3.72 (1H, m), 2.92-3.13 (1H, m), 1.83-2.12 (2H, m), 1.53-1.80 (2H, m), 0.99-1.41 (5H, m), 0.66-0.85 (2 H, m), 0.41-0.67 (2H, m), 1.80-2.05 (2H, m), 1.39-1.70 (2H, m), 1.14-1.41 (2H, m), 0.77 (2H, d, J=4.77 Hz), 0.63 (2H, d, J=3.01 Hz).

reactant | 6-((trans)-4-aminocyclohexylamino)-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.037 mmol, 20.00 mg | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)F)N(CC2=CC=C(C=C2)OC)C2CC2 | C29H33FN8O2
reactant | DIEA | 0.035 mmol, 0.00617 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzenesulfonyl chloride | 8.49 μmol, 1.5 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | TFA | 14.69 mmol, 1.132 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 8-(cyclopropylamino)-N-(2-fluoropyridin-4-yl)-6-((trans)-4-(phenylsulfonamido)cyclohexylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 2.6 mg, 12.54% yield | C1(CC1)NC=1C=2N(N=C(C1)N[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=CC=C1)C(=CN2)C(=O)NC2=CC(=NC=C2)F | C27H29FN8O3S
